US07713979B2
Cis-7-methyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid
Dissolve 7-methyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester (R. R. Crenshaw, etc., J. Med. Chem., 1973, 16(7), 813-823) (14.09 g, 61.7 mmol) in MeOH (300 mL) and add 2M KOH (60 mL, 120 mmol, 2M in H2O). Stir the reaction for overnight at room temperature, then add 1N HCl until pH=3. Remove MeOH under reduced pressure and add water (200 mL). Extract the aqueous layer with ethyl acetate (3×400 mL). Combine the organic layers and dry with Na2SO4, filter and concentrate to give 11.74 g (95%) of the crude title compound as a white solid

reactant | 7-methyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester | 61.7 mmol, 14.09 g | C(C)OC(=O)C1C(CC2(OCCO2)CC1)C | C12H20O4
reactant | KOH | 120 mmol, 2M, 60 mL | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | water | 200 mL | O | H2O
solvent | MeOH | 300 mL | CO | CH4O
product | Cis-7-methyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid | 11.74 g, 95% | C[C@@H]1CC2(OCCO2)CC[C@@H]1C(=O)O | C10H16O4
